US07153878B2
4-Bromo-3-oxo-hexanoic acid ethyl ester (4.68 g, 20.98 mmol) is dissolved into denatured ethanol (100 mL) and para-trifluoromethyl thiobenzamide (4.31 g, 21 mmol) is added in one portion. The reaction is purged of air and flushed with nitrogen then heated to reflux. The reaction is monitored by TLC and HPLC and when complete, the reaction is allowed to cool to room temperature. The solvent is removed and the reaction is diluted with ethyl acetate (200 mL), followed by ishes with saturated sodium bicarbonate solution, water, and brine. The ethyl acetate solution is dried over anhydrous sodium sulfate, then concentrated and further purified using flash column chromatography (10% EtOAc/Hexanes) to yield pure [5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-acetic acid ethyl ester (5.09 g, 14.82 mmol) or 71% yield.

reactant | 4-Bromo-3-oxo-hexanoic acid ethyl ester | 20.98 mmol, 4.68 g | C(C)OC(CC(C(CC)Br)=O)=O | C8H13BrO3
reactant | para-trifluoromethyl thiobenzamide | 21 mmol, 4.31 g | FC(C1=CC=C(C(=S)N)C=C1)(F)F | C8H6F3NS
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | [5-Ethyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-acetic acid ethyl ester | 14.82 mmol, 5.09 g, 71% yield | C(C)OC(CC=1N=C(SC1CC)C1=CC=C(C=C1)C(F)(F)F)=O | C16H16F3NO2S
